US06180622B2
Tri-n-butyltin hydride (1.8 ml) and 147 mg of 2,2′-azobisisobutyronitrile are added to a solution of 2.520 g of (3R,5S)-1-allyloxycarbonyl-3-t-butyldimethylsilyloxy-5-[1-(5-chloroimidazo[5,1-b]thiazol-2-yl)-1-(methylthiothiocarbonyloxy)methyl]pyrrolidine (a diastereomer mixture) in 22.5 ml of dry toluene, and the mixture is stirred in an argon atmosphere at an external temperature of 80° C. for 90 min. The reaction solution is diluted with 200 ml of ethyl acetate, washed with semi-saturated saline and dried over anhydrous magnesium sulfate. The solvent is removed by evaporation under reduced pressure to give a crude product which is then purified by column chromatography on silica gel (hexane:ethyl acetate=2:1) to give 1.467 g of (3R,5s)-1-allyloxycarbonyl-3-t-butyldimethylsilyloxy-5-(5-chloroimidazo[5,1-b]thiazol-2-yl)methylpyrrolidine as a slightly yellow oil.

reactant | Tri-n-butyltin hydride | 1.8 ml | C(CCC)[SnH](CCCC)CCCC
reactant | 2,2′-azobisisobutyronitrile | 147 mg | N(=NC(C#N)(C)C)C(C#N)(C)C | C8H12N4
reactant | (3R,5S)-1-allyloxycarbonyl-3-t-butyldimethylsilyloxy-5-[1-(5-chloroimidazo[5,1-b]thiazol-2-yl)-1-(methylthiothiocarbonyloxy)methyl]pyrrolidine | 2.520 g | C(C=C)OC(=O)N1C[C@@H](C[C@H]1C(OC(=S)SC)C1=CN2C(S1)=CN=C2Cl)O[Si](C)(C)C(C)(C)C | C22H32ClN3O4S3Si
solvent | toluene | 22.5 ml | C1(=CC=CC=C1)C | C7H8
solvent | ethyl acetate | 200 ml | C(C)(=O)OCC | C4H8O2
product | (3R,5s)-1-allyloxycarbonyl-3-t-butyldimethylsilyloxy-5-(5-chloroimidazo[5,1-b]thiazol-2-yl)methylpyrrolidine | 1.467 g | C(C=C)OC(=O)N1C[C@@H](C[C@H]1CC1=CN2C(S1)=CN=C2Cl)O[Si](C)(C)C(C)(C)C | C20H30ClN3O3SSi
